US09388176B2
N-(3-isopropylphenyl)-3-methyl-5-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]benzamide
In a manner similar to that described for Example 138, 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine and 3-bromo-N-(3-isopropylphenyl)-5-methylbenzamide were converted to the title compound.

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | 3-bromo-N-(3-isopropylphenyl)-5-methylbenzamide | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=C(C1)C | C17H18BrNO
product | N-(3-isopropylphenyl)-3-methyl-5-[2-(methylthio)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl]benzamide | C(C)(C)C=1C=C(C=CC1)NC(C1=CC(=CC(=C1)N1CC2=C(N=C(N=C2)SC)CC1)C)=O | C25H28N4OS
